US06586441B2
2-Amino-4-furan-2-yl-6-[(3-methyl-pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, C-(3-methyl-pyridin-2-yl)-methylamine dihydrochloride and DBU in DME. ES-MS m/e (%): 307 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | C-(3-methyl-pyridin-2-yl)-methylamine dihydrochloride | Cl.Cl.CC=1C(=NC=CC1)CN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[(3-methyl-pyridin-2-yl-methyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=NC=CC=C1C | C16H14N6O
